US07193092B2
1,6-Di-O-(triphenylmethyl)-2,5-anhydro-D-mannitol (B1):
a mixture of 2.35 g (14.33 mmol) of 2,5-anhydro-D-mannitol and 8.79 g (31.53 mmol) of triphenylmethyl chloride in 38 ml of pyridine was stirred at 100° C. for 12 hours. After cooling, the mixture was diluted with CH2Cl2, and washed with aq.HCl (0.78 mol/l), the organic phase was dried over Na2SO4 and the solvent was subsequently removed under reduced pressure. The crude product was purified by means of column chromatography (hexane/ethyl acetate 2:1). Yield: 5.57 g (60% of theory).

reactant | 2,5-anhydro-D-mannitol | 14.33 mmol, 2.35 g | C([C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)O | C6H12O5
reactant | triphenylmethyl chloride | 31.53 mmol, 8.79 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 38 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,6-Di-O-(triphenylmethyl)-2,5-anhydro-D-mannitol | C1(=CC=CC=C1)C(OC[C@@H]1[C@@H](O)[C@H](O)[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H40O5
